US05106871
Then an ethyl acetate solution of 21.1 g of 2'-hydroxy-4,4',6'-tris(methoxymethoxy)-3'-(2-propenyl)chalcone was added to a suspension of 8.0 g of 5% palladium/carbon in 50 ml of ethyl acetate, in which a hydrogen gas had been sufficiently absorbed, and the mixture was stirred at room temperature in a hydrogen atmosphere for 3 hours. After the reaction, the reaction mixture was filtered and the solvent was removed from the filtrate by distillation to obtain quantitatively 21.2 g of 1-[2-hydroxy-4,6-bis(methoxymethoxy)-3-n-propylphenyl]-3-(4-methoxymethoxyphenyl)-1-propanone in the form of a colorless oil.

reactant | 2'-hydroxy-4,4',6'-tris(methoxymethoxy)-3'-(2-propenyl)chalcone | 21.1 g | OC1=C(C(C=CC2=CC=C(C=C2)OCOC)=O)C(=CC(=C1CC=C)OCOC)OCOC | C24H28O8
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 8.0 g | [Pd] | Pd
product | 1-[2-hydroxy-4,6-bis(methoxymethoxy)-3-n-propylphenyl]-3-(4-methoxymethoxyphenyl)-1-propanone | 21.2 g | OC1=C(C(=CC(=C1CCC)OCOC)OCOC)C(CCC1=CC=C(C=C1)OCOC)=O | C24H32O8
